US05142041
Synthesis of 7-amino-3-(4,6-diamino-1-methyl-pyrimidinium-2-yl)thiomethyl-3-cephem-4-carboxylate
Under an anhydrous condition, a solution containing 2.72 g of 3-acetoxymethyl-7-amino-3-cephem-4-carboxylic acid and 1.56 g of 4,6-diamino-1-methyl-2-(1H)pyrimidinethione suspended in 20 ml of dry acetonitrile was cooled to 0° C.; and 3.6 ml of boron trifluoride diethylether was added. The temperature of the reaction solution was increased to a room temperature, e.g., 18°-20° C.; the solution was stirred for three hours; and then 10 ml of methyl alcohol was added. The resultant solution was stirred for 10 minutes and was added with 30 ml of ice water. The pH of the solution was adjusted to 7.1 by adding aqueous ammonia solution After concentration under a reduced pressure, e.g., about 20 mmHg, the solution was adjusted to pH 3.7 with 2N-aqueous hydrochloric acid; and allowed to stand at a room temperature for 24 hrs. The precipitates resulted from the reaction solution were filtered, washed with 10 ml of distilled water and with 10 ml of methyl alcohol, and dried to give 2.69 g of the title compound as a solid.

reactant | 3-acetoxymethyl-7-amino-3-cephem-4-carboxylic acid | 2.72 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C10H12N2O5S
reactant | 4,6-diamino-1-methyl-2-(1H)pyrimidinethione | 1.56 g | NC1=NC(N(C(=C1)N)C)=S | C5H8N4S
reactant | methyl alcohol | 10 ml | CO | CH4O
reactant | ammonia | N | H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 7-amino-3-(4,6-diamino-1-methyl-pyrimidinium-2-yl)thiomethyl-3-cephem-4-carboxylate | 2.69 g, Yield: 73% | NC1[C@@H]2N(C(=C(CS2)CSC2=[N+](C(=CC(=N2)N)N)C)C(=O)[O-])C1=O | C13H16N6O3S2
